US05464829
(a) Preparation of p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido}-3-(thiazolo[4,5-c]pyridin-2-yl)thiomethyl-3-cephem-4-carboxylate
Using 369 mg of p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido}-3-chloromethyl-3-cephem-4-carboxylate in place of p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-methoxyiminoacetamido}-3-chloromethyl-3-cephem-4-carboxylate and 74 mg of 2-mercaptothiazolo[4,5-c]pyridine, the reaction and purification were carried out in the same manner as in Example 1(a) to obtain 331 mg of the title compound in a yield of 79%.

reactant | p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido}-3-chloromethyl-3-cephem-4-carboxylate | 369 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C48H48ClN5O8S2
reactant | 2-mercaptothiazolo[4,5-c]pyridine | 74 mg | SC=1SC2=C(C=NC=C2)N1 | C6H4N2S2
product | p-methoxybenzyl 7-{(Z)-2-(2-tritylaminothiazol-4-yl)-2-(1-tert-butoxycarbonyl-1-methylethoxyimino)acetamido}-3-(thiazolo[4,5-c]pyridin-2-yl)thiomethyl-3-cephem-4-carboxylate | 331 mg, yield of 79% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC3=C(C=NC=C3)N2)C(=O)OCC2=CC=C(C=C2)OC)C1=O)=N/OC(C)(C)C(=O)OC(C)(C)C | C54H51N7O8S4
